US07790770B2
A mixture of (3-bromo-4-fluorophenyl)(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)methanone, prepared as described in Procedure 3 and 62, (2.0 g, 4.84 mmol), zinc cyanide (568 mg, 4.84 mmol) and tetrakis(triphenyphoshine)palladium (559 mg, 0.48 mmol) in DMF was heated at 175° C. under microwave irradiation for 10 minutes. The reaction mixture was allowed to cool to room temperature, poured into H2O and the aqueous layer was extracted with EtOAc. The organic layer was dried over Na2SO4, filtered and concentrated. The crude product was purified by ISCO chromatography (12 g column, 0-20% EtOAc/hexane) to yield 2-fluoro-5-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)benzoyl)benzonitrile as a colorless oil (1.5 g, 86% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.11 (m, 2H), 7.41 (m, 3H), 7.27 (m, 1H), 5.97 (m, 1H).

reactant | (3-bromo-4-fluorophenyl)(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)methanone | BrC=1C=C(C=CC1F)C(=O)C1=CC(=CC(=C1)OC(C(F)F)(F)F)F | C15H7BrF6O2
reactant | H2O | O | H2O
reactant | DMF | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 4.84 mmol, 2.0 g | [C-]#N.[Zn+2].[C-]#N
product | 2-fluoro-5-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)benzoyl)benzonitrile | 1.5 g, 86% yield | FC1=C(C#N)C=C(C=C1)C(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)=O | C16H7F6NO2
